US06313125B1
a) 6-Chloro-3-(2-furyl)-1,2,4-triazolo[3,4-a]phthalazine
Triethylamine (1.46 ml, 10.5 mmol) and 2-furoyl chloride (1.03 ml, 10.4 mmol) were added to a stirred solution of 1-chloro-4-hydrazinophthalazine hydrochloride (2.0 g, 8.7 mmol) in dioxane (200 ml) at room temperature under nitrogen. The mixture was stirred at room temperature for 2 h and then heated at reflux for 6 h. The mixture was cooled to room temperature, the solvent evaporated in vacuo and the residue partitioned between dichloromethane (800 ml) and water (200 ml). The organic layer was separated, washed further with water (4×200 ml) and brine (x 1), dried (MgSO4) and evaporated in vacuo. The residue was chromatographed on silica gel, eluting with a 0.5-2% methanol/dichloromethane gradient, to afford the title-product (0.665 g, 28%); 1H NMR (250 MHz, CDCl3) 6.68 (1H, q, J=1.7 Hz, Ar—H), 7.56 (1H, m, Ar—H), 7.73 (1H, m, Ar—H), 7.91 (1H, m, Ar—H), 8.05 (1H, m, Ar—H), 8.31 (1H, d, J=7.5 Hz, Ar—H), 8.76 (1H, m, Ar—H).

reactant | Triethylamine | 10.5 mmol, 1.46 ml | C(C)N(CC)CC | C6H15N
reactant | 2-furoyl chloride | 10.4 mmol, 1.03 ml | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | 1-chloro-4-hydrazinophthalazine hydrochloride | 8.7 mmol, 2.0 g | Cl.ClC1=NN=C(C2=CC=CC=C12)NN
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 6-Chloro-3-(2-furyl)-1,2,4-triazolo[3,4-a]phthalazine | 0.665 g, 28% | ClC1=NN2C(C3=CC=CC=C13)=NN=C2C=2OC=CC2 | C13H7ClN4O
